* d_cp setup time of dfnt1v0x2, 0.13um, Berkeley generic bsim3 params
* dfnt1v0x2_d_cp.cir 2007-05-10:12h23 graham
* FLOW
* instantiate one subckt
* for each clock transition from 20p to 1500p (4 in all)
*   for each data transition from 20p to 1500p (4 in all)
*     for each d-in and z-out combination (4 in all)
*       until the timing increment has been reduced to 0.1ps
*         start with tSU=409.6ps and increase (if fail) or decrease (if pass)
*       assign setup time to output vector
* print output vectors (4x4) to screen and file
*
*    output_file=1   output_file=2   output_file=3   output_file=4
*         ________   ____                 ________   ____
* d  ____/               \________   ____/               \________
*           ______          ______          ______          ______
* cp ______/         ______/         ______/         ______/
*             ____   ________        _____________
* z  ________/               \____                   _____________
*
.include ../../../magic/subckt/vsclib013/spice_model.lib
.include ../../../magic/subckt/vsclib013/dfnt1v0x2.spi
.include ../../../magic/subckt/vsclib013/params.inc
*
x0  cp_0  d_0  vdd0 vss0  x0z  dfnt1v0x2
*
.nodeset v(x0:cn)=0.6 v(x0:ci)=0.6
*
cx0z  x0z  0 10.80f
* 
vdd0 vdd0 0 'vdd'
vss0 0 vss0 'vss'
*
Vcp_0 cp_0 0 dc 0 pwl(0 0 100p 0 )
Vd_0 d_0 0 dc 0 pwl(0 0 100p 0 )
*

.control
  set width=136 height=500 numdgt=3 noprintscale nobreak noaskquit=1

  set measure_point = 1500p
  set max_timing_err = 2p
  set max_timing_perc = 0.02
  set input_threshold_rise = 0.5
  set input_threshold_fall = 0.5
  set output_threshold_rise = 0.5
  set output_threshold_fall = 0.5
  set cp_v1 = $vss
  set cp_v2 = $vdd

  let tsuh1[15] = 0
  let tsul1[15] = 0
  let tsuh2[15] = 0
  let tsul2[15] = 0
  let n = 0
  foreach tran_cp 20p 200p 670p 1500p
    let intran[n] = $tran_cp
    let cp_lo = $measure_point -$tran_cp /2
    let cp_hi = $measure_point +$tran_cp /2
    set cp_input = ( 0 $cp_v1 "$&cp_lo" $cp_v1 "$&cp_hi" $cp_v2 )
    let j = 0
    foreach tran_d 20p 200p 670p 1500p
      foreach output_file 1 2 3 4
        if $output_file = 1
          set d_v1 = $vss
          set d_v2 = $vss
          set d_v3 = $vdd
          set inthresh = $input_threshold_rise
          set z_v1 = $vss
          set z_v2 = $vdd
          set outhresh = $output_threshold_rise
          set outfall = -1
        end
        if $output_file = 2
          set d_v1 = $vdd
          set d_v2 = $vdd
          set d_v3 = $vss
          set inthresh = $input_threshold_fall
          set z_v1 = $vdd
          set z_v2 = $vss
          set outhresh = $output_threshold_fall
          set outfall = 1
        end
        if $output_file = 3
          set d_v1 = $vdd
          set d_v2 = $vss
          set d_v3 = $vdd
          set inthresh = $input_threshold_rise
          set z_v1 = $vdd
          set z_v2 = $vdd
          set outhresh = $output_threshold_fall
          set outfall = 1
        end
        if $output_file = 4
          set d_v1 = $vss
          set d_v2 = $vdd
          set d_v3 = $vss
          set inthresh = $input_threshold_fall
          set z_v1 = $vss
          set z_v2 = $vss
          set outhresh = $output_threshold_rise
          set outfall = -1
        end
*
*       set tP, the point where the cp waveform crosses its threshold
*
        let tP = cp_lo + $input_threshold_rise * $tran_cp

        set functional = 1
        let count = 0
        set max_su = 0
        foreach su 409.6p 409.6p 204.8p 102.4p 51.2p 25.6p 12.8p 6.4p 3.2p 1.6p 0.8p 0.4p 0.2p 0.1p 0.1p 0.1p 0.1p
          let count = count + 1
          if count = 1
            let setup = $su
          else
            if $functional = 1
              let setup = setup - $su
            else
              let setup = setup + $su
            end
          end
          let setup100x = setup * 1E12
          if $max_su < $su
            set max_su = $su
          end
          let d_lo = $measure_point -setup -$tran_d *$inthresh
          let d_hi = $measure_point -setup +$tran_d *$inthresh
          if d_lo < 0
            echo # !? Error: setup time is greater than $measure_point ps
            break
          end
          set d_input = ( 0 $d_v1 100p $d_v2 "$&d_lo" $d_v2 "$&d_hi" $d_v3 )
          if $output_file < 3
            set tstop = 2000p
          else
            set tstop = 3000p
          end
          alter @Vd_0[pwl] = [ $d_input ]
          alter @Vcp_0[pwl] =[ $cp_input ]
          tran $tstep $tstop
          linearize
*          if n = 0 and j = 3 and $output_file = 3
*            plot v(cp_0) v(d_0) v(x0:n1) v(x0:n2) v(x0:n4) v(x0:zn) v(x0z)
*          end

          let tint = length(time)-1
*          let simtime = time[tint]
          let simpoints = length(time)-1
*
*         Check whether output switched or not
*
          let output_v = x0z[tint]
          if $z_v2 lt $vdd *$outhresh and output_v gt $vdd *$outhresh
            set functional = 0
          else
            if $z_v2 gt $vdd *$outhresh and output_v lt $vdd *$outhresh
              set functional = 0
            else
              set functional = 1
            end
          end
*
*         measure delay from tP to x0z passing its threshold
*
          if $output_file < 3
*         Output should switch. Measure its delay.
            if $functional = 1
              let m = simpoints
              let int_m = length ( vector ( m ))
              let k = 1
              repeat 16
                let k = k * 2
                let lower_v = x0z[int_m-1]
                let upper_v = x0z[int_m]
                if $outfall * ( upper_v - $vdd*$outhresh ) <= 0
                  if $outfall * ( lower_v - $vdd*$outhresh ) >= 0
                    goto found_m
                  else
                    let m = m - simpoints / k
                    let int_m = length ( vector ( m )) + 1
                  end
                else
                  let m = m + simpoints / k
                  let int_m = length ( vector ( m )) + 1
                  if m > simpoints
                    goto notfound_m
                  end
                end
              end *repeat 16
              label notfound_m
              echo #Error: Failed to find output threshold ... setting m=1700p at cp transition = $tran_cp, d transition = $tran_d
              echo #Error: Failed to find output threshold ... setting m=1700p at cp transition = $tran_cp, d transition = $tran_d >> dfnt1v0x2_d_cp.error
              let m = simpoints * 1700/$measure_point
              let int_m = length ( vector ( int_m )) + 1

              label found_m
              let tprop = time[int_m-1]+($vdd *$outhresh -lower_v)/(upper_v -lower_v)*(time[int_m]-time[int_m-1])-tP
              let tprop100x = tprop * 1E12
              if setup >= $max_su
                let ref_tprop = tprop
              end

              let timing_diff = abs( tprop - ref_tprop )
              let timing_perc = timing_diff / ref_tprop
              if timing_diff > $max_timing_err or timing_perc > $max_timing_perc
                set functional = 0
              end
              if $output_file = 1
*                echo "n= $&n ,j= $&j ,tran_cp= $tran_cp ,tran_d= $tran_d"
                echo "Trying tSU $&setup100x ps gives tRISE $&tprop100x ps"
              else
*                echo "n= $&n ,j= $&j ,tran_cp= $tran_cp ,tran_d= $tran_d"
                echo "Trying tSU $&setup100x ps gives tFALL $&tprop100x ps"
              end
            else
*              echo "n= $&n ,j= $&j ,tran_cp= $tran_cp ,tran_d= $tran_d"
              echo "Trying tSU $&setup100x ps"
            end
          else
*         Output should not switch from late input change
*            echo "n= $&n ,j= $&j ,tran_cp= $tran_cp ,tran_d= $tran_d"
            echo "Trying tSU $&setup100x ps"
          end *if $output_file < 3
          if $functional = 1 and $su = 0.1p
            break
          end
        end *foreach su
        if $output_file = 1
          let tsuh1[4*j+n] = setup
*          print setup
        end
        if $output_file = 2
          let tsul1[4*j+n] = setup
*          print setup
        end
        if $output_file = 3
          let tsuh2[4*j+n] = setup
*          print setup
        end
        if $output_file = 4
          let tsul2[4*j+n] = setup
*          print setup
        end
        destroy all
      end *foreach output_file
      let j = j + 1
    end *foreach tran_d
    let n = n + 1
  end *foreach tran_cp
  print col intran tsuh1[0,3] tsuh1[4,7] tsuh1[8,11] tsuh1[12,15]
  print col intran tsuh1[0,3] tsuh1[4,7] tsuh1[8,11] tsuh1[12,15] > dfnt1v0x2_d_cp_0_lh.delay
  print col intran tsuh2[0,3] tsuh2[4,7] tsuh2[8,11] tsuh2[12,15]
  print col intran tsuh2[0,3] tsuh2[4,7] tsuh2[8,11] tsuh2[12,15] > dfnt1v0x2_d_cp_1_lh.delay
  print col intran tsul1[0,3] tsul1[4,7] tsul1[8,11] tsul1[12,15]
  print col intran tsul1[0,3] tsul1[4,7] tsul1[8,11] tsul1[12,15] > dfnt1v0x2_d_cp_1_hl.delay
  print col intran tsul2[0,3] tsul2[4,7] tsul2[8,11] tsul2[12,15]
  print col intran tsul2[0,3] tsul2[4,7] tsul2[8,11] tsul2[12,15] > dfnt1v0x2_d_cp_0_hl.delay
  rusage trantime
.endc
.end
